US07109354B2
b) N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-malonamic acid
N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-malonamic acid methyl ester (20 mg, 0.03 mmol, Example 132: step a) and NaOH (1M, 90 μL, 0.09 mmol) were dissolved into MeOH (1.5 mL). The reaction was stirred for 2 hours. LiOH (1.0 mg, 0.05 mmol) was added and the reaction was stirred at RT overnight. The solvents were removed in vacuo and used with out further purification in the next step. ESI-MS (m/z): Calcd. for C27H29N3O7S3: 604.1 (M+1); found: 504.0 (loss of boc).

reactant | N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-malonamic acid methyl ester | COC(CC(=O)NC1=C(C(=CC=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)=O | C28H31N3O7S3
reactant | NaOH | 0.09 mmol, 1M, 90 μL | [OH-].[Na+]
reactant | LiOH | 0.05 mmol, 1.0 mg | [Li+].[OH-]
solvent | MeOH | 1.5 mL | CO | CH4O
product | N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-malonamic acid | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(CC(=O)O)=O)=N | C27H29N3O7S3
